US08455488B2
Synthesis of 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-4-ethyl-1-methylsemicarbazide (Compound II-36)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(ethylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-9) 41 mg (0.23 mmol) was coupled with (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(naphthalen-1-ylmethyl)-N4-tritylsuccinamide (Compound IV-19) 100 mg (0.16 mmol) to obtain the title compound.

reactant | 2-(2-(ethylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.23 mmol, 41 mg | C(C)NC(=O)NN(C)CC(=O)O | C6H13N3O3
reactant | (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(naphthalen-1-ylmethyl)-N4-tritylsuccinamide | 0.16 mmol, 100 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC(=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H45N3O4
product | 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-4-ethyl-1-methylsemicarbazide | C(C)OC([C@H](C)N(C([C@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(CN(NC(=O)NCC)C)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C47H56N6O6
